US06100257
Then, 6.7 g of 4-chloro-2-fluoro-5-isopropoxybenzylalcohol was dissolved in 70 ml of tetrahydrofuran, to which 1 ml of pyridine was added, and the mixture was cooled to 5° C.. Then, 5 ml of thionyl chloride was slowly added dropwise at 5° to 10° C., and the mixture was stirred at 5° C. for 1.5 hours. After completion of the reaction, the reaction mixture was filtered to separate the precipitated crystals, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography, which afforded 7.3 g of 4-chloro-2-fluoro-5-isopropoxybenzyl chloride.

reactant | 4-chloro-2-fluoro-5-isopropoxybenzylalcohol | 6.7 g | ClC1=CC(=C(CO)C=C1OC(C)C)F | C10H12ClFO2
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 4-chloro-2-fluoro-5-isopropoxybenzyl chloride | 7.3 g | ClC1=CC(=C(CCl)C=C1OC(C)C)F | C10H11Cl2FO
